Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fevers, dysuria, urinary incontinence
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with no significant medical history, who was referred to
___ ED with fevers, dysuria, and urinary incontinence.

Patient was in his usual state of health until two days prior to
admission. At that time, he noticed he was having some 
difficulty
urinating, with associated dysuria and urinary frequency. On
___, he had fever/chills, but did not check his temperature.
Reported two episodes of urinary incontinence earlier yesterday
which prompted his presentation to urgent care. Noted to have a
temp of ___, with improvement to ___ after administration of
Tylenol. EMS were called and patient was transferred to ___ 
ED.

On further questioning, patient denied urgency, hematuria,
abdominal pain, or CVA tenderness. Also denied viral URI
symptoms, cough, sputum production, nausea/vomiting, or 
diarrhea.

In the ED, initial VS were notable for;
Temp 102.0  HR 110  BP 117/57  RR 18  SaO2 98% RA

Examination notable for;
Tachycardic, diaphoretic, soft/non-tender abdomen, scattered
rhonchi bilaterally, breathing comfortably on room air

Labs were notable for;
WBC 16.9  Hgb 12.5  Plt 156
Na 134  K 4.1  Cl 102  HCO3 17  BUN 17  Cr 1.1  Gluc 120 
ALT 16  AST 17  ALP 62  Tbili 1.0  Alb 3.9  Lipase 15
Lactate 1.4 -> 2.8 -> 2.7

Urine studies notable for moderate leuks, negative nitrites, 27
WBC, and few bacteria. Influenza A/B PCR negative.

CXR demonstrated no acute cardiopulmonary abnormality.

Patient was given;
- 1L NS 
- 2L LR
- IV ceftriaxone 1g
- IV ketorolac 15mg
- IV acetaminophen 1000mg

Vital signs on transfer;
Temp 98.7  HR 106  BP 115/75  RR 20  SaO2 95% RA

Upon arrival to the floor, patient repeats the above story.
Currently, he feels well. Only experiences pain when urinating,
and otherwise no complaints. Generally very healthy, first time
he has ever been in hospital.

 
Past Medical History:
- Previous type II diabetes mellitus
 
Social History:
___
Family History:
Father died aged ___ from prostrate cancer. Sister recently died
aged ___ of cancer of unknown etiology.
 
Physical Exam:
ADMISSION EXAM
----------------
VS: Temp 101.9  BP 128/78  HR 106  RR 20  SaO2 98 RA 
GENERAL: lying comfortably in bed, non-toxic, no distress
HEENT: AT/NC, no conjunctival pallor, anicteric sclera, MMM
NECK: supple, non-tender, JVP not elevated 
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheezes/crackles
___: soft, non-tender, no distention, no CVA tenderness, BS
normoactive
EXTREMITIES: warm, well perfused, no lower extremity edema
NEURO: A/O x3, otherwise grossly intact 

DISCHARGE EXAM
----------------
V/S: 24 HR Data (last updated ___ @ 715)
    Temp: 98.4 (Tm 99.4), BP: 123/79 (123-134/67-80), HR: 73
(72-86), RR: 20 (___), O2 sat: 97% (97-99), O2 delivery: RA  
GENERAL: NAD. 
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheezes/crackles
___: soft, nd, nt, no suprapubic ttp or CVAT. 
EXTREMITIES: warm, no ___. 
NEURO: grossly intact 
 
Pertinent Results:
ADMISSION LABS
===============
___ 08:09PM BLOOD WBC-16.9* RBC-4.54* Hgb-12.5* Hct-38.0* 
MCV-84 MCH-27.5 MCHC-32.9 RDW-13.7 RDWSD-42.2 Plt ___
___ 08:09PM BLOOD Neuts-80.4* Lymphs-9.5* Monos-8.4 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-13.56* AbsLymp-1.61 
AbsMono-1.42* AbsEos-0.00* AbsBaso-0.04
___ 08:09PM BLOOD Glucose-120* UreaN-17 Creat-1.1 Na-134* 
K-4.1 Cl-102 HCO3-17* AnGap-15
___ 08:09PM BLOOD ALT-16 AST-17 AlkPhos-62 TotBili-1.0
___ 08:09PM BLOOD Lipase-15
___ 08:09PM BLOOD Albumin-3.9
___ 08:00AM BLOOD %HbA1c-6.0 eAG-126

DISCHARGE LABS
===============
___ 06:21AM BLOOD WBC-5.5 RBC-4.34* Hgb-11.7* Hct-35.6* 
MCV-82 MCH-27.0 MCHC-32.9 RDW-13.7 RDWSD-40.8 Plt ___
___ 06:21AM BLOOD Glucose-100 UreaN-11 Creat-1.0 Na-139 
K-4.1 Cl-103 HCO3-21* AnGap-15

MICROBIOLOGY
===============

___ 8:58 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

___ BCx NGTD

REPORTS
===============
CXR:
No acute cardiopulmonary abnormality. 

Renal U/S:
1. No hydronephrosis.  Ultrasound provides limited assessment, 
but no gross 
abnormality. 
2. Diffusely thickened bladder wall and markedly enlarged 
prostate suggests 
chronic outlet obstruction. 

CT abd/pelvis
1. No nephrolithiasis or hydronephrosis. 
2. Mild bladder wall thickening may relate to chronic bladder 
outlet 
obstruction in the setting of prostatomegaly versus cystitis 
given the history 
of urosepsis. 
  

 
Brief Hospital Course:
___ with a history of BPH and HLD, who was referred to ___ ED 
from his PCP's office with fevers, dysuria, and urinary 
incontinence, found to have a UTI and treated with IV 
antibiotics.

___ with a history of BPH and HLD, who was referred to ___ ED 
from his PCP's office with fevers, tachycardia, dysuria, and new 
urinary incontinence, found to have urosepsis and treated with 
IV antibiotics.

====================
ACUTE/ACTIVE ISSUES:
====================
# Urosepsis 
Presented with three days of dysuria, urinary frequency, urinary 
incontinence and fevers, concerning for UTI. Febrile to ___ on 
presentation, and fevers were as high as 104 over course of 
admission. Urine studies with 27 WBCs and few bacteria, 
consistent with possible infection. Lactate initially 1.4, but 
up-trended to 2.8 following an episode of hypotension (sBP ___, 
eventually downtrended to 1.5 following aggressive IVF. Started 
on IV ceftriaxone 1g in the ED, broadened to meropenem on ___ 
when patient was persistently febrile and tachycardic; this was 
narrowed to ceftazidime on ___, on the advice of the pharmacy 
team. Renal ultrasound showed thickened bladder wall, very 
enlarged prostate, and evidence of chronic obstruction, 
suggestive of BPH. Given his persistent sepsis after 2 days of 
IVF and antibiotics, CT Abd/Pelvis was obtained on ___, which 
showed no e/o abscess. Urine cultures ultimately grew E.Coli, 
sensitive to cephalosporins, and antibiotic regimen was narrowed 
to PO cefpodoxime bid prior to discharge (___), to 
complete a 10 day course (set to end on ___. 

# BPH 
Patient has been diagnosed with BPH in the past, with regular 
prostate exams and borderline high PSA in the ___ range. Had 
been on terazosin, states he stopped taking this "months" ago, 
for unclear reasons. Does not recall ever being on finasteride 
or tamsulosin; started both while inpatient, given his evidence 
of enlarged prostate and chronic obstruction on renal 
ultrasound. 

TRANSITIONAL ISSUES:
===================
[ ] Newly started on finasteride and tamsulosin, for his BPH. 
Monitor BPH symptoms and consider referral to Urology for BPH 
symptoms if not improved on these new meds. 
[ ] Patient had been on atorvastatin in past, but is no longer 
taking. Consider resuming as an outpatient based on ASCVD risk. 

#CODE STATUS: Full
#CONTACT: ___, daughter/HCP, ___

 
___ on Admission:
None.
 
Discharge Medications:
1.  Cefpodoxime Proxetil 400 mg PO/NG Q12H 
Take one tablet twice daily until ___ for a total 10-day 
course. 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth twice daily Disp 
#*11 Tablet Refills:*0 
2.  Finasteride 5 mg PO DAILY 
RX *finasteride 5 mg one tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg one capsule(s) by mouth every evening Disp 
#*30 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Urosepsis
Urinary Tract Infection

SECONDARY DIAGNOSIS
===================
Benign Prostatic Hyperplasia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Mr. ___, 

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You had high fevers and urinary incontinence, and were found 
to have a urinary tract infection. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We gave you IV antibiotics to treat your urinary tract 
infection and switched to oral antibiotics. 
- We got an ultrasound, which showed you had a very large 
prostate - which likely caused your infection. 
- We started you on new medications to treat your enlarged 
prostate. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments. 
- You will need to take your oral antibiotic cefpodoxime twice 
daily until ___.  

We wish you the best!  

Sincerely,  
Your ___ Team 
 
Followup Instructions:
___